US07652051B2
Synthesis of 4-{5-[(4-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenol
Mercury (II) oxide yellow (6.38 g, 29.47 mmol) was suspended in ca. 70 mL of anhydrous methanol. 4-Hydroxybenzoic acid hydrazide (4.48 g, 29.47 mmol) was added to this bright-orange suspension, followed by 4-chlorophenylisothiocyanate (5.0 g, 29.47 mmol). The reaction mixture was brought to reflux and refluxed for 2 hours. The reaction mixture turned pitch-black in color and formed black precipitate. Then it was cooled down to ambient temperature and filtered through a short pad of Celite, then through a short pad of silica gel. Then methanol was removed in vacuo and the resulting grey precipitate was re-crystallized from ca. 40 mL of EtOAc. The formed white precipitate was filtered, washed with a small amount of EtOAc and dried in vacuo to give the title product as a white powder.

reactant | 4-Hydroxybenzoic acid hydrazide | 29.47 mmol, 4.48 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 4-chlorophenylisothiocyanate | 29.47 mmol, 5.0 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | methanol | ca. 70 mL | CO | CH4O
catalyst | Mercury (II) oxide yellow | 29.47 mmol, 6.38 g | O=[Hg]
product | 4-{5-[(4-chlorophenyl)amino]-1,3,4-oxadiazol-2-yl}phenol | ClC1=CC=C(C=C1)NC1=NN=C(O1)C1=CC=C(C=C1)O | C14H10ClN3O2
